US06645953B2
A mixture of (25R)-Cholest-5-ene-3β,26-diol (6.24 g, 15.4 mmol), imidazole (4.21 g, 61 mmol) and tert-butyldimethylsilylchloride (2.34 g, 15.4 mmol) and dimethylformamide was heated to 60° C. for 1.5 hours, then poured into water (300 ml) and extracted with diethyl ether (5×100 ml). Flash chromatography afforded (25R)-26-(tert-butyldimethylsilyloxy)cholest-5-en-3β-ol (5.09 g). Melting point: 93.5° C. The 1H-NMR spectrum (CDCl3, d) showed characteristic signals at: 0.01 (s, 6H), 0.63 (s, 3H), 0.90 (s, 9H), 3.4 (m, 3H, H-26 and H-3), 5.32 (d, 1H, H-6). The 13C-NMR spectrum (CDCl3, d) showed characteristic signals at: 50.1 (C-9), 56.1 (C14), 56.7 (C-17), 68.5 (C-26), 71.7 (C-3), 121.6 (C-6), 140.7 (C-5). The mass spectrum showed characteristic peaks at: 516.5 (M+).

reactant | (25R)-Cholest-5-ene-3β,26-diol | 15.4 mmol, 6.24 g | C([C@H](C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)O)O | C27H46O2
reactant | imidazole | 61 mmol, 4.21 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilylchloride | 15.4 mmol, 2.34 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | (25R)-26-(tert-butyldimethylsilyloxy)cholest-5-en-3β-ol | 5.09 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)O | C33H60O2Si
